US04673674
3-Phenyl-1H-indol-2-ethanamine are reacted with cyclopropanecarboxylic acid chloride to give N-cyclopropylcarbonyl-3-phenyl-1H-indol-2-ethanamine, which is reduced with lithium aluminium hydride to N-cyclopropylmethyl-3-phenyl-1H-indol-2-ethanamine, which is reacted with chloracetyl chloride to give 2-chloro-N-cyclopropylmethyl-N-[2-(3-phenyl1H-indol-2-yl)ethyl]acetamide, m.p. 104°-106° (from ethanol/pentane).

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-cyclopropylmethyl-3-phenyl-1H-indol-2-ethanamine | C1(CC1)CNCCC=1NC2=CC=CC=C2C1C1=CC=CC=C1 | C20H22N2
reactant | chloracetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | ethanol pentane | C(C)O.CCCCC
product | 2-chloro-N-cyclopropylmethyl-N-[2-(3-phenyl1H-indol-2-yl)ethyl]acetamide | ClCC(=O)N(CCC=1NC2=CC=CC=C2C1C1=CC=CC=C1)CC1CC1 | C22H23ClN2O
